US03962443
2-(4-Acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (compound 10)
Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (5.0 g) was dissolved in 35 ml of a 10% aqueous solution of sodium carbonate by heating at 90°C for 30 minutes. The resulting solution was filtered to remove the insoluble material, and the filtrate was neutralized with acetic acid to give a precipitate which was collected and recrystallized from a mixture of benzene and chloroform. There is obtained 4.1 g of the product, m.p. 298° - 300°C.

reactant | Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 5.0 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C18H23N5O4
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(4-Acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 4.1 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C16H19N5O4
